US05484942
A solution of 62 cm3 of methanesulphonyl chloride in 100 cm3 of dichloromethane is added over 10 minutes to a solution, cooled to -20° C., of 95 g of 3,3-diphenyl-l,5-pentanediol (prepared according to P. EILBRACHT et al., Chem. Ber. 118, 825-839 (1985)) in 950 cm3 of dichloromethane and 113 cm3 of triethylamine. After stirring for 2 hours at 20° C., the reaction mixture is washed with twice 500 cm3 of water, the organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The oily residue is crystallized from ethyl ether, the crystals are washed with ethyl ether, drained and dried. 140 g of 3,3-diphenyl-l,5-bis(methanesulphonyloxy)pentane are obtained in the form of white crystals; melting point 99° C.

reactant | methanesulphonyl chloride | 62 cm3 | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,3-diphenyl-l,5-pentanediol | 95 g | C1(=CC=CC=C1)C(CCO)(CCO)C1=CC=CC=C1 | C17H20O2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 950 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 113 cm3 | C(C)N(CC)CC | C6H15N
product | 3,3-diphenyl-l,5-bis(methanesulphonyloxy)pentane | 140 g | C1(=CC=CC=C1)C(CCOS(=O)(=O)C)(CCOS(=O)(=O)C)C1=CC=CC=C1 | C19H24O6S2
